data/mechanism_extracts/ACSCatal/10.1021_acscatal.8b03209.json
{"doi": "10.1021_acscatal.8b03209", "journal": "ACSCatal", "is_review": false, "rxn_class_summary": "Mn-catalyzed electrochemical chloroalkylation of alkenes using malononitriles/cyanoacetates and NaCl via anodically coupled electrolysis forming vicinal C-C and C-Cl bonds", "mechanism_family": ["radical_anodic", "mediator_anodic", "electrocatalysis_inner_sphere", "paired_electrolysis"], "electrochemical_role": "Two parallel anodic oxidations mediated by Mn: (i) Mn(III) oxidizes the malononitrile (with H+/e- transfer assisted by acetate) to a transient C-centered radical, and (ii) Mn(II) oxidizes Cl- to generate a persistent [Mn(III)]-Cl chlorine-atom-transfer species; cathode reduces HOAc to H2 and OAc-", "key_intermediates": [{"name": "C-centered radical from benzyl malononitrile (IV)", "smiles": "[CH](C#N)(C#N)Cc1ccccc1", "role": "transient"}, {"name": "[Mn(III)]-Cl persistent chlorine-atom-transfer species (II)", "smiles": null, "role": "reactive"}, {"name": "benzylic C-radical adduct after IV addition to alkene (V)", "smiles": null, "role": "transient"}, {"name": "chlorinated malononitrile 45 (alpha-chloro-benzylmalononitrile)", "smiles": "ClC(C#N)(C#N)Cc1ccccc1", "role": "off_pathway"}, {"name": "Mn(III)(bpy)(OAc)n(MeCN)m active catalyst", "smiles": null, "role": "resting_state"}], "electron_flow": "At the anode, Mn(II)(bpy)/OAc is oxidized to Mn(III), which in parallel oxidizes the deprotonated malononitrile to a transient free C-radical IV and oxidizes Cl- to a persistent [Mn(III)]-Cl. IV adds to the alkene to form transient radical V, which abstracts Cl from [Mn(III)]-Cl (atom transfer) to deliver the chloroalkylation product; HOAc is reduced to H2 at the Pt cathode generating OAc- that returns to the anodic compartment as ligand/base.", "rate_determining_step": null, "probe_reagents": [{"name": "cyclopropyl-substituted alkene 36", "smiles": null, "purpose": "radical_clock", "observation": "Ring-opening occurred after first C-C bond formation to give product 37 in 79%, confirming C-centered radical intermediate"}, {"name": "chlorinated malononitrile 45", "smiles": "ClC(C#N)(C#N)Cc1ccccc1", "purpose": "intermediate_trap", "observation": "Formed in 53% without alkene; using 45 in place of 2 gave predominantly dichloride 4 (61%) with only 32% 3, ruling out Kharasch-type pathway"}, {"name": "divided-cell electrolysis with NaOAc in anodic chamber", "smiles": null, "purpose": "other", "observation": "Restored chloroalkylation reactivity (76% at N=1.0), excluding cathode-assisted radical formation (alt. path 2)"}, {"name": "NaCN vs NaCl competition", "smiles": null, "purpose": "intermediate_trap", "observation": "Only chloroalkylation product (82%) observed; no cyanoalkylation, excluding free carbocation intermediate that would react with more nucleophilic CN-"}, {"name": "Cyclic voltammetry / DPV of Mn(OTf)2/bpy with HOAc/NaOAc/Cl-/2", "smiles": null, "purpose": "redox_probe", "observation": "New anodic wave at ~500 mV indicates Mn(II)/Mn(III) facilitated by OAc ligand; current enhancement on adding Cl- assigned to [Mn(II)]-Cl oxidation to [Mn(III)]-Cl"}], "evidence_types_used": ["radical_clock", "stoichiometric_intermediate", "cyclic_voltammetry", "isolation_of_intermediate", "intermediate_trap_other", "crossover"], "evidence_strength": "strong", "notes": "Two alternative pathways considered and excluded: (1) Kharasch-type Mn-catalyzed radical addition of pre-formed alpha-chloromalononitrile 45 to the alkene (ruled out by product distribution when 45 is used in place of 2, and by the no-current control); (2) cathode-assisted reduction of 45 to radical IV (ruled out by divided-cell experiment). A radical-polar crossover pathway via benzylic cation V+ and Cl- attack was also considered but disfavored by lack of acetoxylation/Ritter products and by NaCN/NaCl competition giving exclusive C-Cl product. Selectivity is rationalized by the persistent radical effect: transient IV adds fast to alkene; persistent [Mn(III)]-Cl then cross-couples with transient V."}
